US06780855B2
1.7 g of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(3,4,4,5,5,6,6,6-octafluoro-hex-2-enyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one is dissolved in 15 ml of methanol and carefully mixed with 222 mg of sodium borohydride. After 15 minutes of stirring at room temperature, the batch is added to saturated common salt solution, extracted with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with ethyl acetate as an eluent, 84 mg of 11β-fluoro-7α-{5-[methyl-(3,4,4,5,5,6,6,6-octafluoro-hex-2-enyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol with a melting point of 130° C. is obtained.

reactant | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(3,4,4,5,5,6,6,6-octafluoro-hex-2-enyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 1.7 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CC=C(C(C(C(F)(F)F)(F)F)(F)F)F)C)O | C30H36F9NO2
reactant | sodium borohydride | 222 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 11β-fluoro-7α-{5-[methyl-(3,4,4,5,5,6,6,6-octafluoro-hex-2-enyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 84 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CC=C(C(C(C(F)(F)F)(F)F)(F)F)F)C)O | C30H38F9NO2
